US09120749B2
(4-(6-(2-Aminoethoxy)pyridin-3-ylamino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, tert-butyl 2-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yloxy)ethylcarbamate (100 mg, 0.19 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (76 mg, 0.28 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (24 mg, 26% over two steps) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.40 (s, 1H), 8.34-8.24 (m, 2H), 8.13-8.03 (m, 2H), 7.82 (dd, J=8.8, 2.8 Hz, 1H), 7.24-7.10 (m, 3H), 4.65 (t, J 5.1=Hz, 2H), 3.43 (t, J=5.1 Hz, 2H), 2.87-2.81 (m, 1H), 1.23-1.15 (m, 4H); ESI MS m/z 493 [C26H22ClFN4O3+H]+; HPLC>99% (AUC), tR=11.00 min.

reactant | tert-butyl 2-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yloxy)ethylcarbamate | 0.19 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)OCCNC(OC(C)(C)C)=O | C25H27BrN4O4
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.28 mmol, 76 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (4-(6-(2-Aminoethoxy)pyridin-3-ylamino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone | 24 mg, 26% | NCCOC1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(=O)C1CC1 | C26H22ClFN4O3
